Data/regression/rad6re/fold_0/aam_train.csv
AAM,dh
[H:1][C:2]=[C:3]([H:4])[C:5]#[C:6][O:7][C:8]([H:9])([H:10])[H:11]>>[C:5]#[C:6][O:7][C:8]([H:9])([H:10])[H:11].[H:1][C:2]#[C:3][H:4],2.6858234382700004
[C:5]([H:6])[C:7]([H:8])([H:9])[O:10][C:11]([H:12])[H:13].[H:1][O:2][C:3][H:4]>>[H:1][O:2]/[C:3]([H:4])=[C:5](\[H:6])[C:7]([H:8])([H:9])[O:10][C:11]([H:12])[H:13],-7.10256270498
[O:1]=[C:2][C:3]([H:4])([H:5])[C:6][O:7][C:8]([H:9])([H:10])[H:11]>>[C:3]([H:4])([H:5])=[C:6][O:7][C:8]([H:9])([H:10])[H:11].[O:1]=[C:2],-0.779438000258
[H:1][C:2].[O:3]=[C:4]([H:5])[C:6]([H:7])[C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[H:14]>>[H:1][C:2][O:3]/[C:4]([H:5])=[C:6](\[H:7])[C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[H:14],-5.08143758797
[H:1][O:2][C:3][O:4][C:5]([H:6])[C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[H:13]>>[C:5]([H:6])[C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[H:13].[H:1][O:2][C:3]=[O:4],2.4434755904700003
[H:11].[H:1][C:2]([H:3])[C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[C:10][O:12][C:13]([H:14])([H:15])[H:16]>>[H:1][C:2]([H:3])[C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[C:10]([H:11])[O:12][C:13]([H:14])([H:15])[H:16],-3.70822451811
[C:3]([H:4])([H:5])=[C:10]([H:11])[C:12]([H:13])([H:14])[C:15]([H:16])([H:17])[H:18].[H:1][C:2][C:7]([H:6])([H:8])[H:9]>>[H:1][C:2]([C:3]([H:4])([H:5])[H:6])[C:7]([H:8])([H:9])[C:10]([H:11])[C:12]([H:13])([H:14])[C:15]([H:16])([H:17])[H:18],-2.20900909
[O:1]=[C:2]=[C:3]([H:4])[C:5]([H:6])([H:7])[C:8]([H:9])=[C:10]([H:11])[H:12]>>[H:9].[O:1]=[C:2]=[C:3]([H:4])[C:5]([H:6])([H:7])[C:8]=[C:10]([H:11])[H:12],4.73598160852
[H:13].[H:1][C:2]([H:3])[O:4][C:5][C:6]([H:7])([H:8])[C:9]([H:10])=[C:11][H:12]>>[H:1][C:2]([H:3])[O:4][C:5][C:6]([H:7])([H:8])[C:9]([H:10])=[C:11]([H:12])[H:13],-4.97050863851
[H:1][O:2][C:3]([H:4])[C@@:6]([H:7])([O:8][H:9])[C:10]([H:11])([H:12])[H:13].[H:5]>>[H:1][O:2][C:3]([H:4])([H:5])[C@:6]([H:7])([O:8][H:9])[C:10]([H:11])([H:12])[H:13],-4.3656519566800025
[H:1][C:2]([H:3])=[C:4]([H:5])[C:6]([H:7])([H:8])[C:9][O:10][C:11]([H:12])([H:13])[H:14]>>[H:14].[H:1][C:2]([H:3])=[C:4]([H:5])[C:6]([H:7])([H:8])[C:9][O:10][C:11]([H:12])[H:13],4.36605738239
[C:10]([H:11])([H:12])[H:13].[H:1][O:2]/[C:3]([H:4])=[C:5]/[O:6][C:7]([H:8])[H:9]>>[H:1][O:2]/[C:3]([H:4])=[C:5](\[O:6][C:7]([H:8])[H:9])[C:10]([H:11])([H:12])[H:13],-4.25769944319
[H:1][C:2]=[C:3]([H:4])/[C:5](=[C:6]/[C:8]([H:9])([H:10])[H:11])[C:12]([H:13])([H:14])[H:15].[H:7]>>[H:1][C:2]=[C:3]([H:4])/[C:5](=[C:6](\[H:7])[C:8]([H:9])([H:10])[H:11])[C:12]([H:13])([H:14])[H:15],-5.0460188854400005
[C:4]([H:5])#[C:6][O:7][H:8].[H:1][O:2][C:3]>>[H:1][O:2][C:3]/[C:4]([H:5])=[C:6]/[O:7][H:8],-1.6521758724899998
[H:1][C:2]([H:3])[C:4]([H:5])([H:6])[O:7][O:8][C:9]([H:10])=[C:11]([H:12])[H:13]>>[H:1][C:2]([H:3])=[C:4]([H:5])[H:6].[O:7][O:8][C:9]([H:10])=[C:11]([H:12])[H:13],0.20179074204
[H:1][C:2][O:3][C:4]([H:5])([H:6])[C:7][O:8][H:9]>>[H:1][C:2][O:3]/[C:4]([H:5])=[C:7]/[O:8][H:9].[H:6],2.94880099644
[O:1][O:2][C:3]([H:4])=[C:5]=[C:6]([H:7])[H:8]>>[C:6]([H:7])[H:8].[O:1][O:2][C:3]([H:4])=[C:5],8.10958048629
[H:16].[H:1][C:2]([H:3])=[C:4]([H:5])/[C:6](=[C:7](\[H:8])[C:9]([H:10])([H:11])[H:12])[C:13]([H:14])[H:15]>>[H:1][C:2]([H:3])=[C:4]([H:5])/[C:6](=[C:7](/[H:8])[C:9]([H:10])([H:11])[H:12])[C:13]([H:14])([H:15])[H:16],-4.5882571256
[C:6]([H:7])[H:8].[H:1][C:2]([H:3])[O:4][C:5][C:9]([H:10])([H:11])[H:12]>>[H:1][C:2]([H:3])[O:4][C:5](=[C:6]([H:7])[H:8])[C:9]([H:10])([H:11])[H:12],-7.2211824714600015
[H:5].[O:1]=[C:2]=[C:3]([H:4])[C:6]([H:7])([H:8])[C:9]=[O:10]>>[O:1]=[C:2][C:3]([H:4])([H:5])[C:6]([H:7])([H:8])[C:9]=[O:10],-2.1140678713
[O:1][O:2]/[C:3]([H:4])=[C:5]/[C:6]([H:7])([H:8])[C:9]([H:10])[H:11]>>[C:6]([H:7])([H:8])=[C:9]([H:10])[H:11].[O:1][O:2][C:3]([H:4])=[C:5],1.5002812107
[C:1]#[C:2][C:7]([H:8])([H:9])[C:10]([H:11])=[C:12]([H:13])[H:14].[C:3]([H:4])([H:5])[H:6]>>[C:1]=[C:2]([C:3]([H:4])([H:5])[H:6])[C:7]([H:8])([H:9])[C:10]([H:11])=[C:12]([H:13])[H:14],-3.5384424713
[C:6]=[C:7]([C:8]([H:9])([H:10])[H:11])[C:12]([H:13])([H:14])[H:15].[H:1][O:2][C:3]([H:4])[H:5]>>[H:1][O:2][C:3]([H:4])([H:5])[C:6]=[C:7]([C:8]([H:9])([H:10])[H:11])[C:12]([H:13])([H:14])[H:15],-3.4085098355900003
[C:2]#[C:4][C:5]([H:6])([H:7])[H:8].[H:1][C:3]>>[H:1][C:2][C:3]#[C:4][C:5]([H:6])([H:7])[H:8],-7.32827937122
[O:1][O:2][C:3](=[C:4][H:5])[C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[H:12]>>[H:8].[O:1][O:2][C:3]([C:4][H:5])[C:6]([H:7])[C:9]([H:10])([H:11])[H:12],4.01771720238
[H:1][C:2][C:3]([H:4])([H:5])[O:6][C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[C:13]([H:14])([H:15])[H:16]>>[H:1][C:2]=[C:3]([H:4])[H:5].[O:6][C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[C:13]([H:14])([H:15])[H:16],0.82484972528
[H:1].[O:2]=[C:3]([H:4])[O:5]/[C:6]([H:7])=[C:8](\[H:9])[C:10]([H:11])([H:12])[H:13]>>[H:1][O:2][C:3]([H:4])[O:5]/[C:6]([H:7])=[C:8](\[H:9])[C:10]([H:11])([H:12])[H:13],-0.995700157517
[H:1][O:2][C:3]([H:4])([H:5])[C:6]#[C:8][C:9]([H:10])[H:11].[H:7]>>[H:1][O:2][C:3]([H:4])([H:5])[C:6]([H:7])=[C:8]=[C:9]([H:10])[H:11],-4.061447311469999
